US07547691B2
4-{3-[5-Chloro-4-(4-cyclopropylcarbamoylbenzo[b]thiophen-2-yl)-pyrimidin-2-ylamino]-propyl}-piperidine-1-carboxylic acid amide
Trimethylsilyl isocyanate (26 mg, 0.22 mmol) is added to a stirred suspension of 2-[5-chloro-2-(3-piperidin-4-yl-propylamino)-pyrimidin-4-yl]-benzo[b]thiophene-4-carboxylic acid cyclopropylamide (50 mg, 0.11 mmol) in DMF (1 mL) and stirred for 2 hours. The mixture is diluted with ethyl acetate (1 mL) then filtered to give the title compound as a yellow solid (43 mg). ES+(m/z) 513 (35Cl) and 515 (37Cl) [M+H].

reactant | Trimethylsilyl isocyanate | 0.22 mmol, 26 mg | C[Si](C)(C)N=C=O | C4H9NOSi
reactant | 2-[5-chloro-2-(3-piperidin-4-yl-propylamino)-pyrimidin-4-yl]-benzo[b]thiophene-4-carboxylic acid cyclopropylamide | 0.11 mmol, 50 mg | C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)NCCCC2CCNCC2 | C24H28ClN5OS
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 1 mL | C(C)(=O)OCC | C4H8O2
product | 4-{3-[5-Chloro-4-(4-cyclopropylcarbamoylbenzo[b]thiophen-2-yl)-pyrimidin-2-ylamino]-propyl}-piperidine-1-carboxylic acid amide | 43 mg | ClC=1C(=NC(=NC1)NCCCC1CCN(CC1)C(=O)N)C1=CC2=C(S1)C=CC=C2C(NC2CC2)=O | C25H29ClN6O2S
